US08703797B2
A solution of 2-chloro-4-methyl-1,8-naphthyridine (330 mg, 1.8 mmol) in NH2NH2 was refluxed at 130° C. for 2 hours. The reaction mixture was cooled to room temperature, then excess NH2NH2 was removed on the rotary evaporator. The residue was taken up in 20 mL of CH2Cl2. The mixture was washed with saturated NaHCO3 (3×15 mL), brine (lx 20 mL), and then dried over MgSO4 and concentrated. The residue was washed with hexane to give 2-hydrazinyl-4-methyl-1,8-naphthyridine. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 2.56 (s, 3 H) 6.66 (s, 1 H) 7.22 (dd, J=7.91, 4.40 Hz, 1 H) 8.11 (dd, J=8.06, 1.90 Hz, 1 H) 8.82 (dd, 1 H).

reactant | 2-chloro-4-methyl-1,8-naphthyridine | 1.8 mmol, 330 mg | ClC1=NC2=NC=CC=C2C(=C1)C | C9H7ClN2
reactant | NH2NH2 | NN | H4N2
product | 2-hydrazinyl-4-methyl-1,8-naphthyridine | N(N)C1=NC2=NC=CC=C2C(=C1)C | C9H10N4
